Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I went to ___ health because I have been crying a lot of 
having suicidal thoughts"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo F BU student with no past psychiatric
history/hospitalizations who was BIBA from ___ after self-presenting there with suicidal ideation with
plan to overdose on sleeping pills and sleep outside in the cold
and 2 weeks of worsening depressive symptoms in the setting of
recent breakup.

On interview, patient reports 2 weeks of feeling hopeless, 
crying
a lot, feeling "heavy" in her head and heart, feeling helpless,
frequent crying, hypersomnia, and decreased appetite (reports 1
meal per day). In the setting of these symptoms, she reports she
has been having frequent thoughts of death, contemplating 
suicide
with possible plan to buy sleeping pills, "take a lot to make me
sleep for a while and go outside where no one can see me and
freeze to death so I never wake up". States that during these 2
weeks she has also been thinking of how she would give away her
belongings and researching how to write a will. She denies 
having
particular sleeping pills she would take or buying them. She
reports that this "episode of depression" is in the setting of a
break-up with her boyfriend of ___ months who was her closest
friend and only support. 

Patient reports that she has similar episodes ___ times per
semester though this is the most severe. States that in the past
she has had thoughts of death she describes as "wondering what
would happen if I died" but had never contemplated a plan for 
how
she would end her life. States that she never sought psychiatric
help for similar episodes because she was busy with school. 

Reports SI, though no intent currently, denies current urges for
self-harm but states "it comes and goes". Denies HI, AVH. 

 
Past Medical History:
Denies
 
Social History:
Per Dr. ___ ___ note, confirmed with patient and
updated as relevant:
-Childhood: Grew up in ___. Parents originally from 
___
and moved to ___ for improved education for her and older sister.
Describes childhood as "normal" and "boring". Had a lot of
financial distress in the family. However, parents were able to
provide her with school, sports, etc. Denies fighting in the
household or domestic abuse. 
-Lives: In ___ dorm with new roommate (1 semester) who she is not
close with. Old roommate currently abroad. 
-Education/Work: At ___ as a senior studying ___. Has been
doing well in school - ___ is "very difficult with horrible grade
deflation". Does not know what job she will have after 
graduation
and has a lot of pressure as "marketing is the most competitive
field". Has had to support herself through school with various
jobs. Pays with grants, scholarship, and minor support from
parents and aunt. 
-Violence/Trauma: Denies
-Social Support: ___
Family History:
Per Dr. ___ ___ note, confirmed with patient
and updated as relevant:
-No known family psychiatric conditions

 
Physical Exam:
General: NAD. Well-nourished, well-developed. Appears stated 
age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops appreciated 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No peripheral edema, distal pulses intact
Skin: No rashes noted

NEUROLOGIC EXAMINATION:
- Cranial Nerves: PERRL, EOMI, facial sensation to light touch,
face symmetric, hearing grossly intact bilaterally, no
dysarthria, shoulder shrug intact/symmetric, tongue/uvula 
midline

- Motor: Normal bulk and tone bilaterally, no abnormal 
movements,
no tremor. Full strength ___ throughout. 

- Coordination: No finger to nose dysmetria

- Sensation: Intact to light touch throughout

- Gait: Steady. Normal stance and posture. No truncal ataxia.

On the discharge day:
On mental status exam: ___ yo short statured, pleasant Asian 
woman, NAD, unremarkable motor activity and gait. Neatly dressed 
and well groomed. She was found in the dining area friendly 
interacting with other clients.

During the interview, she was alert, friendly. She has good 
interpersonal skills. Speech spontaneous, fluent, in normal rate 
and prosody. TP linear and
well organized. TC reveals no delusions. She reported feeling 
better as she was able to talk about her condition and was able 
to ask for help. Her
affect was friendly, euthymic, reactive, appropriate to topics 
of conversation. She exchanged pleasant smile. She denies S/H/I 
at the present time. She expressed plan to follow up with her 
therapist. She said that she will consider antidepressant in the 
future if her condition doesn't improve. However, she did not 
want to start it at the present.
Her insight and judgment are grossly intact.

 
Pertinent Results:
___ 04:40PM BLOOD WBC-5.8 RBC-3.87* Hgb-12.7 Hct-36.7 
MCV-95 MCH-32.8* MCHC-34.6 RDW-11.9 RDWSD-41.2 Plt ___
___ 04:40PM BLOOD Glucose-88 UreaN-12 Creat-0.8 Na-136 
K-3.9 Cl-99 HCO3-23 AnGap-18
___ 04:40PM BLOOD TSH-1.___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.   She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Unspecified depressive disorder
- Patient was brought to ___ ED from ___ counseling ___ 
after self-presentation with SI and plan to overdose on OTC 
sleeping pills and sleeping outside as an attempt to freeze to 
death. She reported worsening depression, anhedonia, 
hypersomnia, decreased appetite, and hopelessness for the past 
___ weeks in the setting of a recent breakup with her boyfriend, 
a separation of her parents, and school stress
- On admission to inpatient psychiatry, patient consistently 
denied current SI, and stated that she was having suicidal 
thoughts a couple of weeks ago. She had presented to the 
___ counseling center in order to receive help for her 
depression as an outpatient, and did not realize that she would 
be sent to the hospital. 
- Patient talked with her sister on phone during her stay, which 
she states was helpful. She discussed with the team her plan to 
open up more to family and friends about her issues.  She was 
also motivated to follow up with a therapist.  
- Patient was appropriate in the milieu and there were no 
behavioral concerns throughout hospitalization. 
- She was given additional resources to read and learn about 
mental illness, including NAMI and mentalhealth.gov. 
- Discussed starting anti-depressant medication during 
hospitalization, however patient declined at this time. She 
states that she would like to continue talking about it with her 
outpatient psychiatrist, and will consider it in the future.
-Ms. ___ asked to be discharged as she was worried about high 
co-pay for hospital admission (her insurance covers only 80% of 
the cost). She also was worried about her  school.
-Considering above, it was felt that continuing holding patient 
would have more negative effect than benefit. Pt was discharged.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself due to a lack of outpatient 
treaters, suicidal ideation, hopelessness, and psychosocial 
stressors. During her inpatient stay, patient consistently 
denied SI. She was motivated to follow up with a therapist as an 
outpatient. She talked with her ex-boyfriend and her sister and 
she felt like she was better able to manage her recent break-up. 
Upon discharge, the patient had many protective factors 
including help-seeking behavior, no previous suicide attempts, 
no chronic substance abuse, sense of responsibility to self, 
future-oriented viewpoint with plans to catch up in class work, 
and outpatient follow-up. Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Blisovi Fe ___ (28) (norethindrone-e.estradiol-iron) 1 mg-20 
mcg (21)/75 mg (7) oral DAILY 

 
Discharge Medications:
1.  Blisovi Fe ___ (28) (norethindrone-e.estradiol-iron) 1 
mg-20 mcg (21)/75 mg (7) oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder 

 
Discharge Condition:
Appearance: Well-groomed female in clean, casual clothing 
 *Behavior: calm,cooperative, engaged, appropriate eye contact
 *Mood and Affect: 'good' / affect euthymic
 *Thought process : linear and goal directed.  No loosening of
associations, no tangentiality.  Does not appear to be 
responding
to internal stimuli.
 *Thought Content : Denies SI/HI. No overt paranoia or
delusions. 
 *Insight/Judgment: good/good

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___